US04486354
2,3-Dichlorobenzoyl Chloride
A mixture of 2,3-dichlorobenzoic acid (39.4 g 0.2M) and thionyl chloride (100 mls) was heated to reflux for 21/2 hours. The cooled solution was evaporated down in vacuo and distilled under nitrogen. Yield 35.5 g (85%), b.p. 146°-148° C. at 31 mm of mercury pressure.

reactant | 2,3-dichlorobenzoic acid | 0.2M, 39.4 g | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | thionyl chloride | 100 mls | S(=O)(Cl)Cl | Cl2OS
product | 2,3-Dichlorobenzoyl Chloride | ClC1=C(C(=O)Cl)C=CC=C1Cl | C7H3Cl3O
